US05162559
Preparation of 2-pentamethyldisilanyl-γ-butyrolactone
200 ml of N-methylpyrrolidone and 34.3 g of zinc dust are placed in a 1,000 ml three-neck flask fitted with internal thermometer, cold-drawn precision glass stirrer and dropping funnel. A mixture of 82.5 g of 2-bromo-γ-butyrolactone and 83.4 g of pentamethylchlorodisilane and 100 ml of N-methylpyrrolidone is added dropwise while stirring so that the internal temperature adjusts to 60° C. during the exothermic reaction. Stirring is continued for a further 6 h at this temperature and the reaction mixture is then poured onto 500 g of flaked ice. Once the ice has melted, the organic phase which separates is separated off and the aqueous phase is extracted with 200 ml of cyclohexane. The combined organic phases are distilled off using a rotary evaporator after drying over magnesium sulfate and the residue is distilled in vacuo.

reactant | 2-bromo-γ-butyrolactone | 82.5 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | pentamethylchlorodisilane | 83.4 g | C[Si]([Si](Cl)(C)C)(C)C | C5H15ClSi2
catalyst | zinc | 34.3 g | [Zn] | Zn
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | 2-pentamethyldisilanyl-γ-butyrolactone | C[Si]([Si](C)(C)C)(C1C(=O)OCC1)C | C9H20O2Si2
